US09193721B2
Step M: 1-[5-(4-Acetylpiperazin-1-yl)-8-chloroimidazo[1,5-a]pyridin-6-yl]ethanone
1-(8-Chloro-5-piperazin-1-ylimidazo[1,5-a]pyridin-6-yl)ethanone hydrochloride was dissolved in methylene chloride (1.0 mL) and N,N-diisopropylethylamine (45 μL, 0.26 mmol) was added. To the reaction mixture, acetyl chloride (5.5 μL, 0.077 mmol) was added and the mixture was stirred for 5 minutes. Evaporation and purification by preparative LCMS (pH 10) gave the desired compound (13 mg, 77%). LCMS calculated for C15H18ClN4O2 (M+H)+: m/z=321.1. found: 320.9.

reactant | 1-(8-Chloro-5-piperazin-1-ylimidazo[1,5-a]pyridin-6-yl)ethanone hydrochloride | Cl.ClC=1C=2N(C(=C(C1)C(C)=O)N1CCNCC1)C=NC2
reactant | N,N-diisopropylethylamine | 0.26 mmol, 45 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.077 mmol, 5.5 μL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-(4-Acetylpiperazin-1-yl)-8-chloroimidazo[1,5-a]pyridin-6-yl]ethanone | 13 mg, 77% | C(C)(=O)N1CCN(CC1)C1=C(C=C(C=2N1C=NC2)Cl)C(C)=O | C15H17ClN4O2
